US08492559B2
Stage (ii): 6-(Piperidin-1-ylmethyl)-2-(pyrrolidin-3-yl)-1,2,3,4-tetrahydroisoquinoline trihydrochloride
1.25 M hydrogen chloride in methanol (11 ml) was added to tert-butyl 3-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)pyrrolidine-1-carboxylate (0.55 g, 1.38 mmol), and the mixture was refluxed for 3 h. The solvent was removed under vacuum and the residue was taken up in ethanol/acetone (5 ml). Diethyl ether (20 ml) was then added, and the resulting precipitate was filtered out and dried under vacuum. Yield: 0.41 g (73%)

reactant | hydrogen chloride | 1.25 M | Cl | ClH
reactant | tert-butyl 3-(6-(piperidin-1-ylmethyl)-3,4-dihydroisoquinolin-2(1H)-yl)pyrrolidine-1-carboxylate | 1.38 mmol, 0.55 g | N1(CCCCC1)CC=1C=C2CCN(CC2=CC1)C1CN(CC1)C(=O)OC(C)(C)C | C24H37N3O2
solvent | methanol | 11 ml | CO | CH4O
product | 6-(Piperidin-1-ylmethyl)-2-(pyrrolidin-3-yl)-1,2,3,4-tetrahydroisoquinoline trihydrochloride | Cl.Cl.Cl.N1(CCCCC1)CC=1C=C2CCN(CC2=CC1)C1CNCC1 | InChI=1S/C19H29N3.3ClH/c1-2-9-21(10-3-1)14-16-4-5-18-15-22(11-7-17(18)12-16)19-6-8-20-13-19;;;/h4-5,12,19-20H,1-3,6-11,13-15H2;3*1H
